US06872833B2
(−)-(1S,4S)-2-Oxa-5-aza-bicyclo[2.2.1]heptane-5-carboxylic acid (7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-amide
From (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid phenyl ester with (1S,4S)-2-oxa-5-aza-bicyclo[2.2.1]heptane trifluoroacetate and pyridine in chloroform. [α]D20=−11.9° (c=0.51, CHCl3), ES-MS m/e (%): 392 (M+H+, 100).

reactant | (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC2=C(N1)C(=CC=C2C2OCCOC2)OC)=O | C19H18N2O5S
reactant | (1S,4S)-2-oxa-5-aza-bicyclo[2.2.1]heptane trifluoroacetate | FC(C(=O)O)(F)F.[C@@H]12OC[C@@H](NC1)C2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (−)-(1S,4S)-2-Oxa-5-aza-bicyclo[2.2.1]heptane-5-carboxylic acid (7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-amide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(=O)N2[C@@H]1CO[C@H](C2)C1)OC | C18H21N3O5S
